US07262212B2
Triethylamine (3.52 ml, 25.28 mmol) and 1,1′-carbonyldiimidazole (4.84 g, 29.87 mmol) were added to a solution of 4-trifluoromethoxybenzoic hydrazide (5.06 g, 22.98 mmol) in THF (150 ml) while cooling in an ice-bath and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, to which water was added. The mixture was extracted with ethyl acetate, and the extract was dried over magnesium sulfate and then concentrated under reduced pressure to afford 5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one (5.34 g, yield 94%) as a colorless crystalline powder.

reactant | Triethylamine | 25.28 mmol, 3.52 ml | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 29.87 mmol, 4.84 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-trifluoromethoxybenzoic hydrazide | 22.98 mmol, 5.06 g | FC(OC1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one | 5.34 g, yield 94% | FC(OC1=CC=C(C=C1)C1=NNC(O1)=O)(F)F | C9H5F3N2O3
